US06635633B2
A. 1-Methanesulfonyl-piperidin-4-one
Potassium carbonate (324 g, 2340 mmol) was added to a solution of 4-piperidone monohydrate hydrochloride (90 g, 586 mmol) in chloroform (300 mL) and water (300 mL). The slurry was cooled to 0° C. and treated with methylsulfonyl chloride (136 mL, 1760 mmol) by dropwise addition over a 1 h period (gas evolution was observed). The reaction mixture was allowed to shake for 72 h and was partitioned between CH2Cl2 (500 mL) and saturated aqueous NaHCO3 (500 mL). The aqueous layer was extracted with CH2Cl2 (3×200 mL). The organic layer was washed with 1% KHSO4 (250 mL), dried (Na2SO4), and concentrated to afford 90.5 g (87%) of a white solid. MS (electrospray): exact mass calculated for C6H11NO3S, 177.1; m/z found, 178.1 [M+H]+. HPLC (reverse phase conditions): tR=2.19 min. 1H NMR (400 MHz, CDCl3): 3.60 (t, J=6.5 Hz, 4H), 2.89 (s, 3H), 2.59 (t, J=6.3 Hz, 4H).

reactant | Potassium carbonate | 2340 mmol, 324 g | C([O-])([O-])=O.[K+].[K+]
reactant | 4-piperidone monohydrate hydrochloride | 586 mmol, 90 g | Cl.O.N1CCC(CC1)=O
reactant | methylsulfonyl chloride | 1760 mmol, 136 mL | CS(=O)(=O)Cl | CH3ClO2S
solvent | chloroform | 300 mL | C(Cl)(Cl)Cl | CHCl3
solvent | water | 300 mL | O | H2O
product | 1-Methanesulfonyl-piperidin-4-one | 90.5 g, 87% | CS(=O)(=O)N1CCC(CC1)=O | C6H11NO3S
